US07423030B2
46.3. 2-Formyl-5-methoxy-3-phenylbenzoic acid
A solution of about 2.3 mmol of methyl 2-formyl-5-methoxy-3-trifluoromethanesulfonyloxybenzoate in 10 mL of toluene is stirred under argon, and 330 mg (2.7 mmol) of phenylboronic acid, 84 mg of tetrakis palladium and 2.5 mL of aqueous 2N sodium carbonate solution are added. The mixture is stirred at 110° C. for 6 hours in a stoppered tube under argon. Water is added to the cooled reaction medium, and the mixture is washed with ethyl acetate and, after acidification (1N HCl), is then extracted with dichloromethane. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The product, in the form of a brown solid, is used without purification in the following reaction.

reactant | methyl 2-formyl-5-methoxy-3-trifluoromethanesulfonyloxybenzoate | about 2.3 mmol | C(=O)C1=C(C(=O)OC)C=C(C=C1OS(=O)(=O)C(F)(F)F)OC | C11H9F3O7S
reactant | phenylboronic acid | 2.7 mmol, 330 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis palladium | 84 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
product | 2-Formyl-5-methoxy-3-phenylbenzoic acid | C(=O)C1=C(C(=O)O)C=C(C=C1C1=CC=CC=C1)OC | C15H12O4
